US06197962B1
First, 8.40 g (100 mmol) of tiglic aldehyde and 8.35 g (50.0 mmol) of benzenesulfonyl cyanide were introduced to the same reaction vessel as in Example 1. Butanol (15 ml) was added as the solvent, and 1.15 g (5.00 mmol) of tributyl borate were added. Then the mixture was heated under reflux for 4 hours while agitating at an internal temperature of 118° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of isopropyl ether that had been cooled to 5° C. or lower. Then the crystals were dried for 2 hours in vacuo to give 9.81 g of 2-benzenesulfonyl-5-methylpyridine as colorless crystals (purity of 99%, yield of 83% based on benzenesulfonyl cyanide).

reactant | benzenesulfonyl cyanide | 50.0 mmol, 8.35 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | tributyl borate | 5.00 mmol, 1.15 g | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | Butanol | 15 ml | C(CCC)O | C4H10O
product | 2-benzenesulfonyl-5-methylpyridine | 9.81 g, yield of 83% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)C | C12H11NO2S
